US20010037030A1
(1R,5S)-7-Benzyl-2-oxo-7-azabicyclo[3.3.0]oct-3-ene
Trifluoroacetic acid (154 μl) was added to a solution of (4R)-4-t-butyldimethylsilyloxy-2-cyclopenten-1-one (5.79 g, 27.3 mmol) and benzylbutoxymethyltrimethylsilylmethylamine (15.4 g, 55.0 mmol) indichloromethane (100 ml) atroomtemperature, followed by stirring for 20 minutes. A saturated sodium hydrogencarbonate aqueous solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. After removing the solvent by evaporation, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to give 4.21 g (19.7 mmol, 72%) of the title compound as acolorless oily substance. (1R,4R,5S)-7-Benzyl-4-t-butyldimethylsilyloxy-2-oxo-7-azabicyclo[3.3.0]octane was also obtained as a mixture with t-butyldimethylsilanol (3.10 g). The resulting mixture (3.10 g) of (1R,4R,5S)-7-benzyl-4-t-butyldimethylsilyloxy-2-oxo-7-azabicyclo[3.3.0]octane and t-butyldimethylsilanol was dissolved in tetrahydrofuran (30 ml), and a 1 M tetrahydrofuran solution (15 ml) of tetrabutylammonium fluoride was added thereto under cooling with ice, followed by stirring at room temperature for 20 minutes. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was removed by evaporation, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to give 1.57 g (7.34 mmol) of the title compound as a colorless oily substance.

reactant | (1R,4R,5S)-7-benzyl-4-t-butyldimethylsilyloxy-2-oxo-7-azabicyclo[3.3.0]octane | 3.10 g | C(C1=CC=CC=C1)N1C[C@H]2[C@@H](CC([C@H]2C1)=O)O[Si](C)(C)C(C)(C)C | C20H31NO2Si
reactant | t-butyldimethylsilanol | C(C)(C)(C)[Si](O)(C)C | C6H16OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 M, 15 ml | O1CCCC1 | C4H8O
product | (1R,5S)-7-Benzyl-2-oxo-7-azabicyclo[3.3.0]oct-3-ene | 7.34 mmol, 1.57 g | C(C1=CC=CC=C1)N1C[C@H]2C=CC([C@H]2C1)=O | C14H15NO
